US07723330B2
Step D: Preparation of 3-(3-fluoro-4-hydroxyphenyl)-3,4-dihydroquinazolin-2(1H)-one:
To a stirred solution of 3-(3-fluoro-4-methoxyphenyl)-3,4-dihydroquinazolin-2(1H)-one (60 mg, 0.22 mmol) in 2.2 mL dichloromethane at 0° C. under a drying tube was added boron tribromide (104 μL, 1.1 mmol) neat by syringe. After 5 minutes, TLC in 1/1 EtOAc/hexanes showed complete consumption of starting material and a new slightly lower rf spot. The reaction was quenched by pouring into saturated NaHCO3 (30 mL) with stirring. 9/1 Dichloromethane/methanol (30 mL) was added and the mixture stirred rapidly. The layers were separated and the organics were dried (MgSO4), filtered, and concentrated to a white solid (40 mg, 70%). LRMS (APCI pos) m/e 259 (M+1). 1H NMR (400 MHz, CDCl3) δ 7.40 (m, 1H), 7.22 (m, 1H), 7.07 (m, 2H), 6.98 (m, 2H), 6.83 (m, 1H), 4.78 (s, 2H).

reactant | 3-(3-fluoro-4-methoxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | 0.22 mmol, 60 mg | FC=1C=C(C=CC1OC)N1C(NC2=CC=CC=C2C1)=O | C15H13FN2O2
reactant | boron tribromide | 1.1 mmol, 104 μL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 2.2 mL | ClCCl | CH2Cl2
product | 3-(3-fluoro-4-hydroxyphenyl)-3,4-dihydroquinazolin-2(1H)-one | FC=1C=C(C=CC1O)N1C(NC2=CC=CC=C2C1)=O | C14H11FN2O2
